US08754114B2
Step 5: methyl 3-imidazo[1,2-b]pyridazin-7-ylbenzoate
A mixture of methyl 3-(6-aminopyridazin-4-yl)benzoate (0.20 g, 0.87 mmol) and chloroacetaldehyde in water (0.3 mL, 50%) in isopropyl alcohol (3.0 mL) was stirred at 100° C. for 4 h. The solvent was removed and the residue was dissolved in ethyl acetate, washed with saturated NaHCO3, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in methylene chloride (0-30%) to afford the desired product (0.18 g). LCMS (M+H)+: m/z=254.1

reactant | methyl 3-(6-aminopyridazin-4-yl)benzoate | 0.87 mmol, 0.20 g | NC1=CC(=CN=N1)C=1C=C(C(=O)OC)C=CC1 | C12H11N3O2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | water | 0.3 mL | O | H2O
solvent | isopropyl alcohol | 3.0 mL | C(C)(C)O | C3H8O
product | methyl 3-imidazo[1,2-b]pyridazin-7-ylbenzoate | 0.18 g | N=1C=CN2N=CC(=CC21)C=2C=C(C(=O)OC)C=CC2 | C14H11N3O2
